US09029374B2
2-chloro-5-fluoroaniline (119 mg, 0.82 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (100 mg, 0.20 mmol) using an analogous procedure to the one described in Example 3.03 to give 8-(1-(2-chloro-5-fluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (45 mg, 47%) as a white solid. Mass Spectrum: M+H+ 474. NMR Spectrum (DMSOd6): 1.62 (d, 3H), 2.74 (bs, 3H), 2.94 (bs, 3H), 3.51-3.65 (m, 4H), 3.69-3.79 (m, 4H), 5.06-5.16 (m, 1H), 5.61 (s, 1H), 5.99 (d, 1H), 6.27 (dd, 1H), 6.40 (ddd, 1H), 7.30 (dd, 1H), 7.59 (d, 1H), 7.80 (d, 1H).

reactant | 2-chloro-5-fluoroaniline | 0.82 mmol, 119 mg | ClC1=C(N)C=C(C=C1)F | C6H5ClFN
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.20 mmol, 100 mg | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | 8-(1-(2-chloro-5-fluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 45 mg, 47% | ClC1=C(C=C(C=C1)F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C24H25ClFN3O4
